US07960552B2
A solution of hydroxylamine hydrochloride (0.21 g, 3.0 mmol) and sodium hydroxide (0.12 g, 3.0 mmol) in water (1.9 mL) was added to a solution of 2,4-dimethyl-3-pyridinecarbaldehyde (0.35 g, 2.6 mmol) in ethanol (3.8 mL). The solution was heated in a 65° C. oil bath for 2 hours. The mixture was concentrated and the residue diluted with water and filtered. The resulting white solid was dried in a 45° C. vacuum oven with P2O5 to yield 2,4-dimethyl-3-pyridinecarbaldehyde oxime (345 mg, 88%). 1H NMR (400 MHz, DMSO-d6): δ 11.44 (s, 1H), 8.33 (s, 1H), 8.23 (d, J=5 Hz, 1H), 7.08 (d, J=5 Hz, 1H), 2.48 (s, overlapping DMSO), 2.33 (s, 3H).

reactant | hydroxylamine hydrochloride | 3.0 mmol, 0.21 g | Cl.NO
reactant | sodium hydroxide | 3.0 mmol, 0.12 g | [OH-].[Na+]
reactant | 2,4-dimethyl-3-pyridinecarbaldehyde | 2.6 mmol, 0.35 g | CC1=NC=CC(=C1C=O)C | C8H9NO
solvent | water | 1.9 mL | O | H2O
solvent | ethanol | 3.8 mL | C(C)O | C2H6O
product | 2,4-dimethyl-3-pyridinecarbaldehyde oxime | 345 mg, 88% | CC1=NC=CC(=C1C=NO)C | C8H10N2O
